US05877190
Step A: 5-Allyl-7-methoxybenzo[b]furan
A solution of 10 g (0.044 mol) of 5-bromo-7-methoxybenzo[b]furan, 17.5 g (0.053 mol) of allyltributyltin and 1.02 g (0.00088 mol) of tetrakis(triphenylphosphine)palladium(0) in 80 ml of dimethylformamide is heated at 90° C. for 15 hours under an inert atmosphere. After returning to room temperature, the dimethylformamide is evaporated off in vacuo. The reaction mass is taken up in 200 ml of diethyl ether and washed in succession with 100 ml of water and 100 ml of a saturated sodium chloride solution. Customary treatment of the organic phase yields an oil, which is purified by chromatography on a silica column using a dichloromethane/heptane (6/4) mixture as eluant.

reactant | 5-bromo-7-methoxybenzo[b]furan | 0.044 mol, 10 g | BrC1=CC2=C(OC=C2)C(=C1)OC | C9H7BrO2
reactant | allyltributyltin | 0.053 mol, 17.5 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00088 mol, 1.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Allyl-7-methoxybenzo[b]furan | C(C=C)C1=CC2=C(OC=C2)C(=C1)OC | C12H12O2
